### PR TITLE
[Merged by Bors] - feat(CategoryTheory): reflecting the property of being precoherent and preregular

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove that given a fully faitful functor `F : C ⥤ D` which preserves and reflects finite
effective epimorphic families, such that for every object `X` of `D` there exists an object `W` of
`C` with an effective epi `π : F.obj W ⟶ X`, the category `C` is `Precoherent` whenever `D` is.

We prove the corresponding result for `Preregular`, but then it is enought that `F` preserves and reflects effective epis.

---

- [x] depends on: #11476 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+    have : EffectiveEpiFamily Y₁ τ₁ := inferInstance
+    obtain ⟨β, _, Y₂, τ₂, H, i, ι, hh⟩ := Precoherent.pullback (F.map f) _ Y₁ τ₁ this
+    let π₂ := fun b ↦ Full.preimage (F.effectiveEpiOver (Y₂ b) ≫ τ₂ b)
+    refine ⟨β, inferInstance, _, π₂, F.finite_effectiveEpiFamily_of_map _ π₂ ?_, ⟨i,
+      fun b ↦ Full.preimage (F.effectiveEpiOver (Y₂ b) ≫ ι b), ?_⟩⟩
+    · simp only [Full.witness, π₂]
+      infer_instance
+    · intro b
+      apply Faithful.map_injective (F := F)
+      simp [π₂, hh b]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean:38]:
```suggestion
      simp [π₂, hh b]

end CategoryTheory

```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean [hunk 2]
```diff
@@ -0,0 +1,33 @@
...
+
+lemma reflects_preregular : Preregular C where
+  exists_fac f g _ := by
+    obtain ⟨W, f', _, i, w⟩ := Preregular.exists_fac (F.map f) (F.map g)
+    refine ⟨_, Full.preimage (F.effectiveEpiOver  W ≫ f'),
+      ⟨F.effectiveEpi_of_map _ ?_, Full.preimage (F.effectiveEpiOver  W ≫ i), ?_⟩⟩
+    · simp only [Full.witness]
+      infer_instance
+    · apply Faithful.map_injective (F := F)
+      simp [w]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean:33]:
```suggestion
      simp [w]

end CategoryTheory
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean [hunk 3]
```diff
@@ -0,0 +1,38 @@
...
+Authors: Dagur Asgeirsson
+-/
+import Mathlib.CategoryTheory.EffectiveEpi.Enough
+import Mathlib.CategoryTheory.EffectiveEpi.Preserves
+import Mathlib.CategoryTheory.Sites.Coherent.CoherentTopology
+/-!
+
+# Reflecting the property of being precoherent
+
+We prove that given a fully faitful functor `F : C ⥤ D` which preserves and reflects finite
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean:13]:
```suggestion
We prove that given a fully faithful functor `F : C ⥤ D` which preserves and reflects finite
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean [hunk 4]
```diff
@@ -0,0 +1,38 @@
...
+Copyright (c) 2024 Dagur Asgeirsson. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Dagur Asgeirsson
+-/
+import Mathlib.CategoryTheory.EffectiveEpi.Enough
+import Mathlib.CategoryTheory.EffectiveEpi.Preserves
+import Mathlib.CategoryTheory.Sites.Coherent.CoherentTopology
+/-!
+
+# Reflecting the property of being precoherent
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectCoherent.lean:11]: The file should be renamed `ReflectsPrecoherent.lean`.

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean [hunk 5]
```diff
@@ -0,0 +1,33 @@
...
+Authors: Dagur Asgeirsson
+-/
+import Mathlib.CategoryTheory.EffectiveEpi.Enough
+import Mathlib.CategoryTheory.EffectiveEpi.Preserves
+import Mathlib.CategoryTheory.Sites.Coherent.RegularTopology
+/-!
+
+# Reflecting the property of being preregular
+
+We prove that given a fully faitful functor `F : C ⥤ D`, with `Preregular D`, such that for every
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean:13]:
```suggestion
We prove that given a fully faithful functor `F : C ⥤ D`, with `Preregular D`, such that for every
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean [hunk 6]
```diff
@@ -0,0 +1,33 @@
...
+  [Preregular D] [Full F] [Faithful F]
+
+lemma reflects_preregular : Preregular C where
+  exists_fac f g _ := by
+    obtain ⟨W, f', _, i, w⟩ := Preregular.exists_fac (F.map f) (F.map g)
+    refine ⟨_, Full.preimage (F.effectiveEpiOver  W ≫ f'),
+      ⟨F.effectiveEpi_of_map _ ?_, Full.preimage (F.effectiveEpiOver  W ≫ i), ?_⟩⟩
+    · simp only [Full.witness]
+      infer_instance
+    · apply Faithful.map_injective (F := F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean:32]:
```suggestion
    · apply F.map_injective
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean [hunk 7]
```diff
@@ -0,0 +1,33 @@
...
+
+variable {C D : Type*} [Category C] [Category D] (F : C ⥤ D)
+  [F.PreservesEffectiveEpis] [F.ReflectsEffectiveEpis]
+  [F.EffectivelyEnough]
+  [Preregular D] [Full F] [Faithful F]
+
+lemma reflects_preregular : Preregular C where
+  exists_fac f g _ := by
+    obtain ⟨W, f', _, i, w⟩ := Preregular.exists_fac (F.map f) (F.map g)
+    refine ⟨_, Full.preimage (F.effectiveEpiOver  W ≫ f'),
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectRegular.lean:28]: Instead of `Full.preimage`, you should use `F.preimage`.

**Review by joelriou — APPROVED** [review]

**Comment by joelriou** [comment]
After a few small corrections, it should look good to me.

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectsPrecoherent.lean [hunk 8]
```diff
@@ -0,0 +1,40 @@
...
+-/
+
+namespace CategoryTheory
+
+variable {C D : Type*} [Category C] [Category D] (F : C ⥤ D)
+  [F.PreservesFiniteEffectiveEpiFamilies] [F.ReflectsFiniteEffectiveEpiFamilies]
+  [F.EffectivelyEnough]
+  [Precoherent D] [Full F] [Faithful F]
+
+lemma reflects_precoherent : Precoherent C where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectsPrecoherent.lean:25]: So that dot notation works:
```suggestion
lemma Functor.reflects_precoherent : Precoherent C where
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectsPreregular.lean [hunk 9]
```diff
@@ -0,0 +1,35 @@
...
+-/
+
+namespace CategoryTheory
+
+variable {C D : Type*} [Category C] [Category D] (F : C ⥤ D)
+  [F.PreservesEffectiveEpis] [F.ReflectsEffectiveEpis]
+  [F.EffectivelyEnough]
+  [Preregular D] [Full F] [Faithful F]
+
+lemma reflects_preregular : Preregular C where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectsPreregular.lean:25]:
```suggestion
lemma Functor.reflects_preregular : Preregular C where
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectsPrecoherent.lean [hunk 10]
```diff
@@ -0,0 +1,40 @@
...
+    have : EffectiveEpiFamily Y₁ τ₁ := inferInstance
+    obtain ⟨β, _, Y₂, τ₂, H, i, ι, hh⟩ := Precoherent.pullback (F.map f) _ Y₁ τ₁ this
+    let π₂ := fun b ↦ F.preimage (F.effectiveEpiOver (Y₂ b) ≫ τ₂ b)
+    refine ⟨β, inferInstance, _, π₂, F.finite_effectiveEpiFamily_of_map _ π₂ ?_, ⟨i,
+      fun b ↦ F.preimage (F.effectiveEpiOver (Y₂ b) ≫ ι b), ?_⟩⟩
+    · simp only [Functor.image_preimage, π₂]
+      infer_instance
+    · intro b
+      apply F.map_injective
+      simp [π₂, hh b]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectsPrecoherent.lean:38]:
```suggestion
    obtain ⟨β, _, Y₂, τ₂, H, i, ι, hh⟩ := Precoherent.pullback (F.map f) _ _
      (fun a ↦ F.map (π₁ a)) inferInstance
    refine ⟨β, inferInstance, _, fun b ↦ F.preimage (F.effectiveEpiOver (Y₂ b) ≫ τ₂ b),
      F.finite_effectiveEpiFamily_of_map _ _ ?_,
        ⟨i, fun b ↦ F.preimage (F.effectiveEpiOver (Y₂ b) ≫ ι b), ?_⟩⟩
    · simp only [Functor.image_preimage]
      infer_instance
    · intro b
      apply F.map_injective
      simp [hh b]
```

File: Mathlib/CategoryTheory/Sites/Coherent/ReflectsPreregular.lean [hunk 11]
```diff
@@ -0,0 +1,35 @@
...
+variable {C D : Type*} [Category C] [Category D] (F : C ⥤ D)
+  [F.PreservesEffectiveEpis] [F.ReflectsEffectiveEpis]
+  [F.EffectivelyEnough]
+  [Preregular D] [Full F] [Faithful F]
+
+lemma Functor.reflects_preregular : Preregular C where
+  exists_fac f g _ := by
+    obtain ⟨W, f', _, i, w⟩ := Preregular.exists_fac (F.map f) (F.map g)
+    refine ⟨_, F.preimage (F.effectiveEpiOver  W ≫ f'),
+      ⟨F.effectiveEpi_of_map _ ?_, F.preimage (F.effectiveEpiOver  W ≫ i), ?_⟩⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ReflectsPreregular.lean:29]:
```suggestion
      ⟨F.effectiveEpi_of_map _ ?_, F.preimage (F.effectiveEpiOver W ≫ i), ?_⟩⟩
```

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by dagurtomas** [comment]
Thanks for the reviews!

bors merge

**Comment by dagurtomas** [comment]
bors merge
